US09388176B2
3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-(4-propylphenyl)benzamide
To a mixture of 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid (41 mg, 0.15 mmol), 4-propylaniline (0.029 mL, 0.20 mmol), and N,N-diisopropylethylamine (0.052 mL, 0.30 mmol) in 1.5 mL DMF at room temperature was added COMU (68 mg, 0.158 mmol). The reaction was briefly warmed to approx. 60° C. and then continued at room temperature for 15 hours. The reaction was added drop wise to a stirring mixture of 35 mL water containing 5 mL brine at room temperature, and the resulting precipitate filtered and rinsed with water. The filtrate was partitioned between EtOAc and aqueous Na2CO3 solution, the EtOAc layer washed with H2O, brine, dried with anhydrous Na2SO4 and rotary evaporated. The resulting solid was combined with the filtered precipitate and then chromatographed eluting with portions of CHCl3, then 1:1 CHCl3:EtOAc, and then 5% MeOH/CHCl3. The obtained solid was then triturated with an EtOAc/hexane mixture to give the title compound as a light beige solid (18 mg, 32%). 1H NMR (DMSO-d6) δ: 10.07 (s, 1H), 8.13 (s, 1H), 7.62-7.69 (m, 2H), 7.48-7.51 (m, 1H), 7.31-7.40 (m, 2H), 7.21 (dt, J=7.7, 2.0 Hz, 1H), 7.13-7.19 (m, 2H), 6.40 (s, 2H), 4.29 (s, 2H), 3.65 (t, J=6.0 Hz, 2H), 2.77 (t, J=5.9 Hz, 2H), 2.50-2.56 (m, 2H), 1.58 (sxt, J=7.4 Hz, 2H), 0.89 (t, J=7.3 Hz, 3H).

reactant | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzoic acid | 0.15 mmol, 41 mg | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)O)C=CC2 | C14H14N4O2
reactant | 4-propylaniline | 0.20 mmol, 0.029 mL | C(CC)C1=CC=C(N)C=C1 | C9H13N
reactant | N,N-diisopropylethylamine | 0.30 mmol, 0.052 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | COMU | 0.158 mmol, 68 mg | CCOC(=O)C(=NOC(=[N+](C)C)N1CCOCC1)C#N.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | 35 mL | O | H2O
product | 3-(2-amino-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-N-(4-propylphenyl)benzamide | 18 mg, 32% | NC=1N=CC2=C(N1)CCN(C2)C=2C=C(C(=O)NC1=CC=C(C=C1)CCC)C=CC2 | C23H25N5O
